Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Labetalol
 
Attending: ___.
 
Chief Complaint:
Asymptomatic hypertension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
hypertension, currently not on medication, who presented with 
asymptomatic hypertension.

Previously, she had been on nifedipine 90 ER, but stopped her 
medication in the ___ when her pharmacy changed to 
generic. At that time, she had an episode of shortness of breath 
and dizziness with the generic formulation, so she self-d/ced 
the medication. She reports reaching out to her PCP's office at 
that time, but never heard back from them.

Chronically, she also reports occasional heart "flutters", which 
are asymptomatic. She denies SOB, DOE, CP, presyncope, syncope, 
dizziness, lightheadedness. These episodes are self-resolving, 
lasting ___ seconds. She noticed an increase in frequency of 
these episodes over the past two weeks, so she took her blood 
pressure with her wrist home monitor. These show readings of 
___ going back to ___, but she never 
sought medical attention for these.

Yesterday, she was evaluated for pre-employment health screening 
and her BP was 222/141, repeat 222/125, manual 220/130. She 
reports being asymptomatic at that time other than occasional 
coughing.

Of note, she previously had severe drug-induced hepatitis with 
labetalol. She also reports rare etoh consumption (only for rare 
special events like anniversaries, etc.). She also had renin and 
___ levels measured in ___ with normal levels but ARR of 20.5.
 
Past Medical History:
1. Pregnancy induced hypertension: started ___, treated w/ 
labetolol during and after pregnancy
2. Uterine fibroids
3. Heart murmur
4. mitral valve prolapse
5. s/p Caesarean section x 5, most recently ___. Iron deficiency anemia
 
Social History:
___
Family History:
Mother: HTN
Sister: ESRD s/p renal transplant
 
Physical Exam:
EXAM ON ADMISSION:
==================
 VITAL SIGNS: T98.4 BP 147 / 86 HR72 RR18 SPO2 97 RA  
 GENERAL: well appearing, cheerful, sitting upright in bed in 
NAD  
 HEENT: NCAT. Moist oral mucosa. Posterior OP clear without 
erythema. Mallampati ___.  
 NECK: soft, no masses or tenderness, full ROM  
 CARDIAC: RRR, III/VI soft systolic murmur at apex, no 
radiation.  
 LUNGS: CTAB, unlabored breathing on room air  
 ABDOMEN: soft, Nontender, nondistended  
 EXTREMITIES: warm, no edema.  
 NEUROLOGIC: CN ___ intact. ___ strength in all motor groups. 
Sensation intact to light touch in all extremities. No tremor or 
dysmetria with FNF, heel-shin-knee test. Gait normal.  
 SKIN: warm and dry, no rashes  
 LABS: reviewed above  

EXAM ON DISCHARGE:
==================
Vital Signs:  98.3, 155/93, 65, 20, 98%Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm
Abdomen: soft, obese, non-tender, non-distended, no rebound 
tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro:  AAOx3, CN II-XII intact, sensation to LT intact 
throughout
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 11:55AM   GLUCOSE-94 UREA N-14 CREAT-0.9 SODIUM-141 
POTASSIUM-2.9* CHLORIDE-95* TOTAL CO2-31 ANION GAP-18
___ 11:55AM   cTropnT-<0.01
___ 11:55AM   WBC-7.0 RBC-4.85 HGB-12.7 HCT-39.7 MCV-82 
MCH-26.2 MCHC-32.0 RDW-13.5 RDWSD-40.1
___ 11:55AM   PLT COUNT-213
___ 11:55AM   ___ PTT-36.8* ___
___ 11:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 06:15PM   cTropnT-<0.01

LABS AT DISCHARGE:
==================
___ 06:30AM BLOOD WBC-6.4 RBC-4.60 Hgb-12.2 Hct-37.7 MCV-82 
MCH-26.5 MCHC-32.4 RDW-13.7 RDWSD-40.7 Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-111* UreaN-17 Creat-0.9 Na-143 
K-3.2* Cl-100 HCO3-28 AnGap-18
___ 06:30AM BLOOD Calcium-9.2 Phos-3.9 Mg-1.8

Imaging & Studies
=================
None

Microbiology
============
None
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
hypertension, currently not on medication, who presented with 
asymptomatic hypertension to 230's systolic. Of note, she self 
discontinued Nifedipine 90mg ER in ___ after her pharmacy 
switched to generic and she had a reaction. As a result, her 
home blood pressure monitor indicates systolics into the 200's 
dating as far back as ___. She also notes occasional 
asymptomatic self-resolving heart flutters lasting ___ seconds 
at a time. Patient's BP improved after nicardipine drip and 
administration of nifedipine. She developed HA after nicardipine 
likely d/t relative hypotension, which subsequently improved. 
She received two dose of nifedipine and then was transitioned to 
lisinopril 20mg daily after consultation with patient's PCP ___ 
___ for renal protection given proteinuria. Patient was 
scheduled for follow up with nephrology. 

#Hypertensive urgency: 
Patient with BP to 237/119. She was treated with nicardipine ggt 
and transitioned to nifedipine in the emergency department and 
subsequently developed HA likely in the setting of relative 
hypotension. Patient did not have evidence of of end organ 
damage (neurologic, cardiovascular, renal, or otherwise). Cr was 
stable at 0.9 (baseline 0.7-0.9), trop negative x2. Likely 
precipitant was non-adherence given concerns regarding 
medication side effects for prior hepatoxicity from labetolol. 
Likely primary HTN, although low K+ c/f secondary hypertension 
despite normal ___ ratio of 20.5 in ___. She was started 
on lisinopril with followup with her PCP next week for labs and 
further medication titration. If patient develops cough, was 
told that she can be switched to losartan. 

#Hypokalemia: Patient presented with hypokalemia and significant 
hypertension. No evidence of GI losses. Her K was repleted and 
she was started on lisinopril. She may need further w/u for 
secondary hypertension and hyperaldosteronism if repeat labs 
demonstrate hypokalemia. 

CHRONIC ISSUES:
#Proteinuria: Patient with Alb/Cre ratio of 193.8 on ___. 
A1c 6.0 in ___. Likely higher than expected for hypertensive 
nephropathy. She has been scheduled for followup with 
nephrology. 

TRANSITIONAL ISSUES:
[] Started on lisinopril 20mg daily for blood pressure 
management. She needs repeat Chem10 on ___. Consider increasing 
lisinopril based on in office BP measurements. If develops 
cough, consider switching to losartan. 
[] Elevated alb/creatine ratio in ___. Started on treatment 
with lisinopril during this hospitalization with referral to 
nephrology as an outpatient
[] Consider w/u for secondary causes of hypertension if 
continues with refractory hypertension and hypokalemia
[] Consider sleep study as an outpatient given patient's 
reported history of snoring as possible contributor to 
hypertension.
[] Consider starting statin for primary prevention given high ___ 
year ASCVD risk.  
[] Patient with prior history of positive ___ and anterior 
uveitis, consider further workup as indicated 
# CODE: full (presumed) 
# CONTACT: husband ___ ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. biotin 1,000 mcg oral daily 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  biotin 1,000 mcg oral daily  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Hypertension
-Hypokalemia
SECONDARY DIAGNOSIS:
-Proteinuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
You were in the hospital because your blood pressure was very 
high.

WHAT HAPPENED IN THE HOSPITAL?
In the hospital, you received some tests to make sure that your 
high blood pressure was not causing any immediate damage to your 
organs. You also received blood pressure medications to reduce 
your blood pressure to a safer level.

WHAT SHOULD I DO WHEN I GO HOME?
-Please follow up with your primary care physician about your 
blood pressure management
-Please follow up with the nephrologist (kidney doctor) about 
the protein in your urine
-Please continue to take the blood pressure medications we 
prescribed for you in the hospital
-Continue to check your blood pressure with your home monitor 
everyday
-If your blood pressure goes above 200 (top number) please call 
your primary care physician
-___ you develop chest pain, shortness of breath, headache, blood 
in your urine, please do not hesitate to call your primary care 
physician or be evaluated at an emergency department or urgent 
care.

We wish you the best!
-Your Care Team at ___
 
Followup Instructions:
___